scheMAGIC Simulator document bac587b6baead34e
* document-hash bac587b6baead34e
V1 n1 0 DC 5 $ component:c1
R2T n1 n2 5000.00000000 $ component:c2
R2B n2 0 5000.00000000 $ component:c2
R3 n2 n3 10000 $ component:c3
Q4 n4 n3 0 OC_2N3904 $ component:c4
R5 n1 n5 330 $ component:c5
D6 n5 n4 OC_LED_RED $ component:c6
.model OC_2N3904 NPN(IS=6.734F BF=255.9 VAF=74.03 IKF=0.2847 ISE=6.734F NE=1.307 BR=6.092 VAR=12.5 IKR=0.1 RC=1 CJE=4.493P TF=0.3012N CJC=3.638P TR=239.5N)
.model OC_LED_RED D(IS=1e-20 N=2 RS=10 EG=1.8 CJO=30P BV=5 IBV=10U)
.save all v1#branch @r2t[i] @r3[i] @q4[ic] @r5[i] @d6[id]
.op
.end
